US07915281B2
A slurry of 4-chloro-2-(ethoxymethyl)-1-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline (1.52 g, 3.62 mmol) in a solution of 7 M ammonia in methanol (15 mL) was heated at 150° C. for 20 hours in a Parr pressure vessel. The volatiles were removed under reduced pressure and the resulting residue was partitioned between dichloromethane and 1 M aqueous sodium hydroxide. The aqueous layer was extracted with several portions of dichloromethane. The organic phases were combined, washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution 10% to 30% CMA/chloroform) to yield 2-(ethoxymethyl)-1-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine (653 mg, 45%) as white powder that was dried under vacuum at 70° C., mp 240.0-242.0° C. 1H NMR (300 MHz, DMSO-d6) δ 8.99 (d, J=1.7 Hz, 1H), 8.64 (dd, J=3.2, 1.6 Hz, 1H), 8.16-8.20 (m, 1H), 7.97 (d, J=7.5 Hz, 1H), 7.61 (d, J=7.4 Hz, 1H), 7.41-7.50 (m, 2H), 7.17 (t, J=7.0 Hz, 1H), 6.97 (s, 1H), 6.17 (s, 2H), 5.75 (s, 2H), 4.88 (s, 2H), 3.50 (q, J=7.0 Hz, 2H), 0.98 (t, J=7.0, 3H).

reactant | 4-chloro-2-(ethoxymethyl)-1-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline | 3.62 mmol, 1.52 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C=2C=NC=CC2)COCC | C22H18ClN5O2
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 15 mL | CO | CH4O
product | 2-(ethoxymethyl)-1-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine | 653 mg, 45% | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC(=NO1)C=1C=NC=CC1 | C22H20N6O2
